US06306864B1
Anhydrous zinc chloride (0.136 g, 1.0 mmol) was fused with a nitrogen purge in a round bottom flask with an open flame. The reaction vessel was allowed to return to ambient temperature, at which time dioxane (10 mL) was then added. To this mixture was added 3-(2-chloro-phenyl)-2-methyl-3H-quinazolin-4-one (0.135 g, 0.50 mmol), acetic anhydride (0.141 mL, 1.5 mmol), and 2-methylthiazole-4-carboxaldehyde (0.191 g, 1.5 mmol). The reaction was refluxed for 3 hours, and was then allowed to cool to ambient temperature. Once the reaction had cooled to abient temperature it was diluted with water. The resulting mixture was repeatedly extracted with chloroform. The combined chloroform layers were washed with water and brine, dried over sodium sulfate and then concentrated to yield a waxy tan solid. This residue was triturated with ether, filtered and dried to afford 0.139 g (73%) of 3-(2-chloro-phenyl)-2-[2-(2-methyl-thiazol-4-yl)-vinyl]-3H-quinazolin-4-one as tan solid.

reactant | 3-(2-chloro-phenyl)-2-methyl-3H-quinazolin-4-one | 0.50 mmol, 0.135 g | ClC1=C(C=CC=C1)N1C(=NC2=CC=CC=C2C1=O)C | C15H11ClN2O
reactant | acetic anhydride | 1.5 mmol, 0.141 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-methylthiazole-4-carboxaldehyde | 1.5 mmol, 0.191 g | CC=1SC=C(N1)C=O | C5H5NOS
solvent | water | O | H2O
catalyst | zinc chloride | 1.0 mmol, 0.136 g | [Cl-].[Zn+2].[Cl-]
product | 3-(2-chloro-phenyl)-2-[2-(2-methyl-thiazol-4-yl)-vinyl]-3H-quinazolin-4-one | 0.139 g, 73% | ClC1=C(C=CC=C1)N1C(=NC2=CC=CC=C2C1=O)C=CC=1N=C(SC1)C | C20H14ClN3OS
